US08633315B2
Step 3: 1-Methoxy-4-(1,1,1-trifluoro-2-methylpropan-2-yl)benzene
A solution of 1-(2-chloro-1,1,1-trifluoropropan-2-yl)-4-methoxybenzene (18.0 g, 75 mmol) in 400 ml of hexanes was treated with trimethylaluminum (151 ml, 302 mmol) (2.0 M in heptane) at rt and the resulting mixture was heated at 95° C. overnight. The reaction mixture was cooled in an ice-water bath, conc. HCl was added to the reaction mixture dropwise. Fumes were generated. After about 10 ml of conc. HCl was added, more rapid addition of acid was possible due to the near complete quenching of the unreacted AlMe3. After addition of 100 ml of conc. HCl, 250 ml of H2O was added and the mixture was stirred vigorously for 1 h. The layers were separated. The org layer was dried (Na2SO4) and concentrated to give the title compound as an oil, which solidified upon drying on the vac line.

reactant | 1-(2-chloro-1,1,1-trifluoropropan-2-yl)-4-methoxybenzene | 75 mmol, 18.0 g | ClC(C(F)(F)F)(C)C1=CC=C(C=C1)OC | C10H10ClF3O
reactant | trimethylaluminum | 302 mmol, 2.0 M, 151 ml | C[Al](C)C
solvent | HCl | about 10 ml | Cl | ClH
product | 1-Methoxy-4-(1,1,1-trifluoro-2-methylpropan-2-yl)benzene | COC1=CC=C(C=C1)C(C(F)(F)F)(C)C | C11H13F3O
